US07157487B2
Methyl 6-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)hexanoate (330 mg, 0.645 mmol) was dissolved in THF (30 ml). At room temperature, 0.25N NaOH (30 ml) was added and the mixture was stirred for 24 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl, followed by extraction with a chloroform/methanol (10/1) mixture. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by thin-layer silica gel chromatography, followed by separation by using chloroform/methanol (20/1), whereby the title compound (238 mg, 74%) was obtained as a yellow oil. Ethanol (10 ml) and 1N NaOH (0.478 ml, 0.478 mmol) were added to the resulting carboxylic acid derivative (238 mg, 0.478 mmol). After stirring for 10 minutes, ether was added to crystallize the residue, which had been obtained by distilling off the solvent under reduced pressure, whereby sodium 6-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)hexanoate (199 mg) was obtained.

reactant | Methyl 6-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)hexanoate | 0.645 mmol, 330 mg | F[C@H]1C[C@H](N(C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)COCCCCCC(=O)OC | C28H34FN3O5
reactant | NaOH | 0.25N, 30 ml | [OH-].[Na+]
reactant | Ethanol | 10 ml | C(C)O | C2H6O
reactant | NaOH | 0.478 mmol, 1N, 0.478 ml | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | sodium 6-((2S,4S)-4-fluoro-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)hexanoate | 199 mg | F[C@H]1C[C@H](N(C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)COCCCCCC(=O)[O-].[Na+] | InChI=1S/C27H32FN3O5.Na/c1-18-7-4-5-8-22(18)29-27-30-23-11-10-19(13-24(23)36-27)14-25(32)31-16-20(28)15-21(31)17-35-12-6-2-3-9-26(33)34;/h4-5,7-8,10-11,13,20-21H,2-3,6,9,12,14-17H2,1H3,(H,29,30)(H,33,34);/q;+1/p-1/t20-,21-;/m0./s1
